US04859691
Sodium hydride (50% in mineral oil, 3.4 g, 0.071 mole) is washed free of mineral oil with hexane (3×30 mL) and suspended in dimethylformamide (100 mL). This suspension is well stirred and maintained near room temperature (water bath) during the dropwise addition of a solution of imidazole (4.8 g, 0.071 mole) in dimethylformamide (25 mL). The reaction mixture is stirred at room temperature for 1 hour when 3-bromomethyl-1,2-benzisoxazole (15.0 g, 0.071 mole) is added all at once. The mixture is then heated at 85° C. for 8 hours. The solvent is evaporated in vacuo and the residue is taken up in methylene chloride (200 mL) and washed with water (3×50 mL). The organic solution is dried over anhydrous sodium sulfate, filtered and evaporated to give 3-[(1H-imidazol-1-yl)methyl]-1,2-benzisoxazole, which is purified by recrystallisation from isopropanol, m.p. 52°-55° C. The free base is converted to the hydrochloride salt m.p. 145°-146° C., when its solution in isopropanol is treated with a small excess of ethereal hydrogen chloride.

reactant | Sodium hydride | 0.071 mole, 3.4 g | [H-].[Na+]
reactant | water | O | H2O
reactant | imidazole | 0.071 mole, 4.8 g | N1C=NC=C1 | C3H4N2
reactant | 3-bromomethyl-1,2-benzisoxazole | 0.071 mole, 15.0 g | BrCC1=NOC2=C1C=CC=C2 | C8H6BrNO
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 3-[(1H-imidazol-1-yl)methyl]-1,2-benzisoxazole | N1(C=NC=C1)CC1=NOC2=C1C=CC=C2 | C11H9N3O
